US06979692B2
(c) 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid ethyl ester
4′-Trifluoromethyl-biphenyl-2-carboxylic acid (5.04 g, 18.95 mmol) and 1-ethyl-5-nitro-1H-indole-2-carboxylic acid ethyl ester (4.00 g, 17.23 mmol) were dissolved in DCM (100 mL). DIEA (8 g, 61.8 mmol) was added to the above mixture and the mixture was stirred at room temperature for 5 minutes. PyBroP (9.63 g, 20.67 mmol) was added to the above solution in one portion. The reaction mixture was stirred for another 3 hours. The precipitate was filtered off and washed with cold DCM to provide the title compound (4.5 g, 54.4%).

reactant | 4′-Trifluoromethyl-biphenyl-2-carboxylic acid | 18.95 mmol, 5.04 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)(F)F | C14H9F3O2
reactant | 1-ethyl-5-nitro-1H-indole-2-carboxylic acid ethyl ester | 17.23 mmol, 4.00 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC | C13H14N2O4
reactant | DIEA | 61.8 mmol, 8 g | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBroP | 20.67 mmol, 9.63 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid ethyl ester | 4.5 g, 54.4% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)CC | C27H23F3N2O3
